US08258138B2
iii) 1-Methyl-1H-imidazole-4-sulfonic acid benzyl-[4-(4-phenyl-piperazin-1-yl methyl)-phenyl]-amide (8)
A solution of benzyl-[4-(4-phenyl-piperazin-1-yl methyl)-phenyl)-amine (30 mg, 0.08 mmol), 1-methylimidazole-4-sulfonyl chloride (51 mg, 0.27 mmol) and pyridine (24 μl, 0.30 mmol) in dry dichloromethane (2 ml) were heated to reflux for 15 h. The reaction mixture was cooled to room temperature and concentrated in vacuo. The crude residue was purified by column chromatography (5% methanol in dichloromethane) to afford the title compound as an off white solid (22 mg, 55%). HPLC retention time 7.04 min. Mass spectrum (ES+) m/z 502 (M+H). 1H-NMR (CDCl3) δH 2.54 (4H, m, 2×CH2), 3.16 (4H, m, 2×CH2), 3.45 (2H, br s, CH2), 3.71 (3H, s, CH3), 4.99 (2H, s, CH2), 6.84 (1H, t, J=7.3 Hz, ArH), 6.89 (2H, m, 2×ArH), 7.10 (2H, m, 2×ArH), 7.17-7.30 (10H, m, 10×ArH), 7.55 (1H, m, ArH).

reactant | benzyl-[4-(4-phenyl-piperazin-1-yl methyl)-phenyl)-amine | 0.08 mmol, 30 mg | C(C1=CC=CC=C1)NC1=CC=C(C=C1)CN1CCN(CC1)C1=CC=CC=C1 | C24H27N3
reactant | 1-methylimidazole-4-sulfonyl chloride | 0.27 mmol, 51 mg | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | pyridine | 0.30 mmol, 24 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-Methyl-1H-imidazole-4-sulfonic acid benzyl-[4-(4-phenyl-piperazin-1-yl methyl)-phenyl]-amide | C(C1=CC=CC=C1)N(S(=O)(=O)C=1N=CN(C1)C)C1=CC=C(C=C1)CN1CCN(CC1)C1=CC=CC=C1 | C28H31N5O2S
